US04372956
(e) 5,10-dihydro-5-methylimidazo[2,1-b]quinazoline (I)
4 g of crude N-(2,2-dimethoxyethyl)-α-methyl-o-amino-benzylamine and 1.9 g cyanogen bromide are reacted and the product is worked up in the same manner as in Example 1e to afford the heading compound. M.p. 171°-172° (crystallisation from ethanol).

reactant | N-(2,2-dimethoxyethyl)-α-methyl-o-amino-benzylamine | 4 g | COC(CNC(C1=C(C=CC=C1)N)C)OC | C12H20N2O2
reactant | cyanogen bromide | 1.9 g | N#CBr | CBrN
product | 5,10-dihydro-5-methylimidazo[2,1-b]quinazoline | CC1N2C(NC3=CC=CC=C13)=NC=C2 | C11H11N3
